US06656660B1
With the use of 100 g (0.567 mole) of p-tert-butoxystyrene and 5.3 g (0.03 mole) of p-tert-butylstyrene, the same polymerization reaction and after-treatment as described in Production Example 2-(1) were conducted. Then, the resulting viscous resinous material was dissolved in 300 g of acetone and poured into 2000 ml of 50% aqueous methanol solution and precipitated resin was subjected to decantation. This process step was conducted further twice, and the resultant was dried under reduced pressure to give 94.5 g of poly(p-tert-butoxystyrene/p-tert-butylstyrene) as white powders. Then, 70 g of the polymer was subjected to the same reaction and after-treatment as described in Production Example 9-(1) to give 48.5 g of poly(p-hydroxystyrene/p-tert-butylstyrene) as white powders. A ratio of p-hydroxystyrene unit and p-tert-butylstyrene unit was about 94:6 by 1HNMR. Mw: about 16000, Mw/Mn: 1.29 (GPC method: polystyrene as standard).

reactant | p-tert-butoxystyrene | 0.567 mole, 100 g | C(C)(C)(C)OC1=CC=C(C=C)C=C1 | C12H16O
reactant | p-tert-butylstyrene | 0.03 mole, 5.3 g | C(C)(C)(C)C1=CC=C(C=C)C=C1 | C12H16
reactant | methanol | 2000 ml | CO | CH4O
solvent | acetone | 300 g | CC(=O)C | C3H6O
product | p-tert-butoxystyrene p-tert-butylstyrene | C(C)(C)(C)OC1=CC=C(C=C)C=C1.C(C)(C)(C)C1=CC=C(C=C)C=C1 | InChI=1S/C12H16O.C12H16/c1-5-10-6-8-11(9-7-10)13-12(2,3)4;1-5-10-6-8-11(9-7-10)12(2,3)4/h5-9H,1H2,2-4H3;5-9H,1H2,2-4H3
